data/mechanism_extracts/GreenChem/10.1039_D4GC00352G.json
{"doi": "10.1039_D4GC00352G", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Photoelectrocatalytic dehydrogenative carbocyclization of unactivated alkene-tethered quinazolin-4-ones with diethyl malonate to give polycyclic pyrroloquinazolinones, with H2 as sole byproduct", "mechanism_family": ["radical_anodic", "photoredox_combined", "paired_electrolysis"], "electrochemical_role": "Anodic PCET oxidation of base-activated diethyl malonate generates a malonate radical; cathode reduces protons to H2; photoexcited Ir(ppy)3* (via oxidative quenching) reoxidizes the cyclized N-centered radical to a nitranion (electron shuttle anchoring an EC intermediate)", "key_intermediates": [{"name": "malonate radical (A) from PCET of diethyl malonate", "smiles": "CCOC(=O)[CH]C(=O)OCC", "role": "reactive"}, {"name": "alkyl radical B from addition of malonate radical to tethered alkene", "smiles": null, "role": "transient"}, {"name": "N-centered cyclohexadienyl-type radical C from intramolecular amidine radical trapping", "smiles": null, "role": "reactive"}, {"name": "nitranion D from SET reduction of C by excited Ir(ppy)3*", "smiles": null, "role": "transient"}, {"name": "tetrahydropyrroloquinazolinone E (protonated D, detected by HRMS)", "smiles": null, "role": "transient"}, {"name": "Ir(ppy)3 / Ir(ppy)3* / Ir(IV) photocatalyst states (oxidative quenching cycle)", "smiles": null, "role": "reactive"}], "electron_flow": "Base-activated diethyl malonate is oxidized at the anode via PCET to a malonate radical that adds to the tethered alkene; the resulting alkyl radical cyclizes onto the quinazolinone amidine to give an N-centered radical C, which is oxidized by photoexcited Ir(ppy)3* to a nitranion D (regenerating Ir(III) at the cathode); protonation, anodic oxidation, and deprotonation deliver the aromatized product while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction suppressed (0% 3a)"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Reaction suppressed (0% 3a)"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Malonate–DPE adduct 5 isolated in 66%, implicating malonate radical"}, {"name": "p-dinitrobenzene (pDNB)", "smiles": "O=[N+]([O-])c1ccc(cc1)[N+](=O)[O-]", "purpose": "redox_probe", "observation": "SET inhibitor suppresses the reaction"}, {"name": "CuCl2", "smiles": "Cl[Cu]Cl", "purpose": "radical_trap", "observation": "Reaction suppressed (0%)"}, {"name": "CCl4", "smiles": "ClC(Cl)(Cl)Cl", "purpose": "radical_trap", "observation": "Reaction suppressed (0%)"}, {"name": "IrCl4 (as alternative oxidant)", "smiles": null, "purpose": "intermediate_trap", "observation": "No reaction without current, ruling out Ir(IV) as key oxidant of substrate (path c)"}, {"name": "Electrochemically generated Ir(IV) (no light control)", "smiles": null, "purpose": "intermediate_trap", "observation": "Failed to promote carbocyclization without electricity, ruling out oxidative quenching shuttle (path b)"}, {"name": "UVA LEDs (365/385 nm, no PC)", "smiles": null, "purpose": "other", "observation": "Only 35–38% (vs 36% dark) — no triplet sensitization of 1b operative (path d excluded)"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Authors explicitly rule out four alternative pathways: (a) reductive quenching photocatalytic cycle alone, (b) Ir(IV) as electron shuttle between anode and substrate, (c) highly oxidized excited-state Ir(IV)* acting as photooxidant, and (d) energy-transfer triplet sensitization of the quinazolinone 1b. Favored proposal is anodic generation of malonate radical (paths f/g) with Ir(ppy)3 oxidative quenching cycle reoxidizing the cyclohexadienyl N-radical C to nitranion D. H2 evolution at cathode confirmed by detection experiments (Fig. S24). Intermediate E detected by HRMS."}
